US04371720
Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-oxoethyl)cyclohexanone ethylene ketal
A mixture of 17.0 g. (34.7 mmoles) of trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone ethylene ketal, 44.5 g. (0.208 mmole) of sodium metaperiodate and 176 mg. (0.69 mmole) of osmium tetroxide in 340 ml. tetrahydrofuran and 100 ml. of water was stirred at room temperature for 3.5 hours. The reaction mixture was then added to 1000 ml. 15% sodium sulfite-1000 ml. ether. The organic phase was separated, washed twice with 500 ml. of saturated sodium bicarbonate, dried over magnesium sulfate and evaporated (aspirator). The residue was purified by column chromatography on 400 g. of silica gel eluted with 33-75% ether-petroleum ether to yield 10.0 g. (59%) of the title compound as an oil.

reactant | trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone ethylene ketal | 34.7 mmoles | C1COC2(C[C@H]([C@@H](CC2)CC=C)C2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)O1 | C33H46O3
reactant | sodium metaperiodate | 0.208 mmole | I(=O)(=O)(=O)[O-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium sulfite | 1000 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
catalyst | osmium tetroxide | 0.69 mmole | [Os](=O)(=O)(=O)=O
solvent | ether | CCOCC | C4H10O
product | Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-oxoethyl)cyclohexanone ethylene ketal | 59% | C1COC2(C[C@H]([C@@H](CC2)CC=O)C2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)O1 | C32H44O4
